US09029399B2
Preparation of Intermediate 3-bromo-4-cyclopentyl-pyridine (I-34c)
Platinum oxide (20 mg) was added to a mixture of 3-bromo-4-cyclopent-1-enyl-pyridine (I-34b: 140 mg, 0.622 mmol) in toluene (5 mL) and stirred overnight under hydrogen atmosphere. The reaction was monitored by TLC (20% ethyl acetate in hexane). The reaction mixture was filtered through celite pad and washed with toluene and concentrated to afford crude product. Purification by column chromatography (8% ethyl acetate in hexane) afforded 98 mg of the product (71% yield).

reactant | 3-bromo-4-cyclopent-1-enyl-pyridine | 0.622 mmol, 140 mg | BrC=1C=NC=CC1C1=CCCC1 | C10H10BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
catalyst | Platinum oxide | 20 mg | [Pt]=O
product | 3-bromo-4-cyclopentyl-pyridine | 98 mg, 71% yield | BrC=1C=NC=CC1C1CCCC1 | C10H12BrN
